US07105679B2
STEP A: 2-[4-{-1-[4-(2-azepan-1-yl-ethoxy)-phenyl]-1-hydroxy-ethyl}-7-(tert-butyl-dimehyl-silyloxy)-2H-chromen-3-yl]-5-(tert-butyl-dimethyl-silyloxy)-phenol
To a solution of 1-[2-(4-bromophenoxy)ethyl]-azepane (356 mg, 1.19 mmol) in THF (7.5 mL) at −78° C., was added n-butyl lithium (2.5 M in hexane, 466 μL, 1.17 mmol). The reaction mixture was stirred at −78° C. for 0.5 hours. To the mixture was then added 2,8-bis-(tert-butyl-dimethyl-silyloxy)-11H-chromeno[4,3-c]chromen-5-one, prepared as in Example 22, (149 mg, 0.29 mmol) in THF (3 mL) and the reaction mixture stirred at −78° C. for 1.5 hours. To the mixture was then methyl magnesium bromide (3 M in diethyl ether, 1 mL, 3 mmol) at −78° C. and then stirred at room temperature overnight. The reaction was quenched with aqueous NH4Cl and extracted with ethyl acetate. The organic layer was washed with brine and dried over MgSO4. The remaining solvent was evaporated to yield the crude title product as a yellow oil, which was carried on to the next step without further purification.

reactant | 1-[2-(4-bromophenoxy)ethyl]-azepane | 1.19 mmol, 356 mg | BrC1=CC=C(OCCN2CCCCCC2)C=C1 | C14H20BrNO
reactant | n-butyl lithium | 1.17 mmol, 2.5 M, 466 μL | C(CCC)[Li]
reactant | 2,8-bis-(tert-butyl-dimethyl-silyloxy)-11H-chromeno[4,3-c]chromen-5-one | C(C)(C)(C)[Si](OC=1C=CC=2C3=C(COC2C1)C=1C=CC(=CC1OC3=O)O[Si](C)(C)C(C)(C)C)(C)C | C28H38O5Si2
reactant | methyl magnesium bromide | 3 mmol, 3 M, 1 mL | C[Mg]Br
solvent | THF | 7.5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-[4-{-1-[4-(2-azepan-1-yl-ethoxy)-phenyl]-1-hydroxy-ethyl}-7-(tert-butyl-dimehyl-silyloxy)-2H-chromen-3-yl]-5-(tert-butyl-dimethyl-silyloxy)-phenol | N1(CCCCCC1)CCOC1=CC=C(C=C1)C(C)(O)C1=C(COC2=CC(=CC=C12)O[Si](C)(C)C(C)(C)C)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)O | C43H63NO6Si2
